US07479502B2
1-tert-Butyl-3-[3′-formyl-6,2′-bis-(2-methoxyethoxymethoxy)-biphenyl-3-ylmethyl]-urea (0.6 g, 1.15 mmol), prepared as in Reference 19, diaminobenzamidine hydrochloride (0.3 g, 1.6 mmol) and 1,4-benzoquinone (0.124 g, 1.15 mmol) were combined in methanol (15 mL) and the mixture was heated at 60° C. and stirred for 2 hours. The mixture was cooled to room temperature and the solvent was removed by evaporation to yield 2-[5′-3-tert-butylureidomethyl)-2,2′- bis-(2-methoxyethoxymethoxy)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine.

reactant | 1-tert-Butyl-3-[3′-formyl-6,2′-bis-(2-methoxyethoxymethoxy)-biphenyl-3-ylmethyl]-urea | 1.15 mmol, 0.6 g | C(C)(C)(C)NC(=O)NCC=1C=C(C(=CC1)OCOCCOC)C1=C(C(=CC=C1)C=O)OCOCCOC | C27H38N2O8
reactant | diaminobenzamidine hydrochloride | 1.6 mmol, 0.3 g | Cl.NC=1C(=C(C(=N)N)C=CC1)N
reactant | 1,4-benzoquinone | 1.15 mmol, 0.124 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | methanol | 15 mL | CO | CH4O
product | 1H-benzoimidazole-5-carboxamidine | N1C=NC2=C1C=CC(=C2)C(=N)N | C8H8N4
